US08455475B2
tert-Butyl 9-(5,6-dihydro-[1,2,4]triazolo[1,5-a]pyrazin-7(8H)-yl)-3-azaspiro[5.5]undecane-3-carboxylate
Acetic acid (2.34 eq.) was added to a solution of tert-butyl 9-oxo-3-azaspiro[5.5]undecane-3-carboxylate (1.122 mmol, 1 eq.) and 5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyrazine (1.14 eq.) in methylene chloride (7 ml). Sodium triacetoxyborhydride (1.4 eq) was then added and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with methylene chloride and sat. NaHCO3 solution. The aqueous phase was washed with methylene chloride (2×20 ml), and the combined organic phases were dried over Na2SO4 and concentrated in vacuo. The crude product was purified by column chromatography (silica, ethyl acetate/ethanol 10:1) to obtain the desired product. Yield: 62%

reactant | Acetic acid | 2.34 eq. | C(C)(=O)O | C2H4O2
reactant | tert-butyl 9-oxo-3-azaspiro[5.5]undecane-3-carboxylate | 1.122 mmol, 1 eq. | O=C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C15H25NO3
reactant | 5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyrazine | 1.14 eq. | N=1C=NN2C1CNCC2 | C5H8N4
reactant | Sodium | [Na] | Na
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | tert-Butyl 9-(5,6-dihydro-[1,2,4]triazolo[1,5-a]pyrazin-7(8H)-yl)-3-azaspiro[5.5]undecane-3-carboxylate | Yield: 62% | N=1C=NN2C1CN(CC2)C2CCC1(CCN(CC1)C(=O)OC(C)(C)C)CC2 | C20H33N5O2
